US07977351B2
5-Fluoro-3-(2-{2-[(2-methoxy-ethyl)-methyl-amino]-ethyl}-7H-furo[3,4-b]pyridin-5-ylidene)-1,3-dihydro-indol-2-one
Following the method described in Example 19, 5-fluoro-3-(2-vinyl-7H-furo[3,4-b]pyridin-5-ylidene)-1,3-dihydro-indol-2-one (80 mg, 0.27 mmol) and (2-methoxyethyl)methylamine (450 mg, 5.04 mmol) are heated 100° C. for 2 h. Additional (2-methoxyethyl)methylamine is added and heating is continued for 1 hr. The reaction mixture is cooled and treated with triethylamine (10 drops). The reaction mixture is loaded onto silica gel and purified by chromatography (silica gel, MeOH-Chloroform). The product containing fractions are concentrated and triturated with EtOAc-hexane. The solid obtained is collected by filtration and dried to provide the title compound (55 mg, 53%) as a yellow solid.

reactant | 5-fluoro-3-(2-vinyl-7H-furo[3,4-b]pyridin-5-ylidene)-1,3-dihydro-indol-2-one | 0.27 mmol, 80 mg | FC=1C=C2C(C(NC2=CC1)=O)=C1OCC2=NC(=CC=C21)C=C | C17H11FN2O2
reactant | (2-methoxyethyl)methylamine | 5.04 mmol, 450 mg | COCCNC | C4H11NO
catalyst | triethylamine | 10 drops | C(C)N(CC)CC | C6H15N
product | 5-Fluoro-3-(2-{2-[(2-methoxy-ethyl)-methyl-amino]-ethyl}-7H-furo[3,4-b]pyridin-5-ylidene)-1,3-dihydro-indol-2-one | 55 mg, 53% | FC=1C=C2C(C(NC2=CC1)=O)=C1OCC2=NC(=CC=C21)CCN(C)CCOC | C21H22FN3O3
